US08071779B2
5-Bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole
A 250 mL round bottom flask with was charged with 5-bromo-1H-indazole (25.00 g, 0.127 mol, 1.0 eq), and dichloromethane (100 mL). To the suspension was added dihydropyran (32.0 g, 0.381 mol, 3.0 eq) and a catalytic amount of pyridinium para-toluenesulfonate (3.19 g, 0.0127 mol, 0.10 eq). The mixture was stirred overnight, and in the morning was a clear solution. The methylene chloride was washed sequentially with saturated sodium bicarbonate, 10% citric acid, and brine, and was then evaporated. Chromatography of the residue on silica gel, eluting with EtOAc/heptane, gave the title compound as a colorless liquid (28.00 g, 79%).

reactant | 5-bromo-1H-indazole | 0.127 mol, 25.00 g, 1.0 eq | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | dihydropyran | 0.381 mol, 32.0 g, 3.0 eq | O1CCCC=C1 | C5H8O
reactant | pyridinium para-toluenesulfonate | 0.0127 mol, 3.19 g, 0.10 eq | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 5-Bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 28.00 g, 79% | BrC=1C=C2C=NN(C2=CC1)C1OCCCC1 | C12H13BrN2O
